US04160085
To a solution of 2,2,2-trichloroethyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)-acetate (450 mg) in methylene chloride (7 ml) are added methanesulfonyl chloride (0.093 ml) and triethylamine (0.48 ml) at -25° C., and the mixture is kept at the same temperature for 40 minutes. To the produced solution of 2,2,2-trichloroethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate is added dropwise morpholine (0.112 ml), and the mixture is stirred for 1.3 hours. The reaction mixture is washed with water, dried, and evaporated to give residue which is purified by chromatography over silica gel containing 10% water to give 2,2,2-trichloroethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate (205 mg).

reactant | 2,2,2-trichloroethyl α-[3-benzyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)-acetate | 450 mg | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC(Cl)(Cl)Cl)=C(C)O)=O | C17H15Cl3N2O4S
reactant | methanesulfonyl chloride | 0.093 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,2,2-trichloroethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC(Cl)(Cl)Cl)=C(C)OS(=O)(=O)C)=O | C18H17Cl3N2O6S2
reactant | morpholine | 0.112 ml | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.48 ml | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloroethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate | 205 mg | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OCC(Cl)(Cl)Cl)=C(C)N1CCOCC1)=O | C21H22Cl3N3O4S
